US07973026B2
Step 1: tert-butyl 6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylate
A suspension of 6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylic acid (1 eq., prepared as described in WO2005/023819) in dry CH2Cl2 (0.19 M) was treated with tert-butyl N,N′-diisopropylimidocarbamate (2 eq.). The resulting clear solution was heated to reflux for 20 h. Addition of a further equivalent of isourea was required after 16 h to drive the reaction to complete conversion. After cooling down the solvent was evaporated in vacuo giving a residue that was purified by flash chromatography (PE:EtOAc, 10:1) affording the title compound (57%). 1H-NMR (400 MHz, DMSO-d6, 300 K, δ) 11.12 (bs, 1H), 7.55 (s, 1H), 7.08 (s, 1H), 2.60-2.50 (m, 1H), 1.99-1.67 (m, 5H), 1.51 (s, 9H), 1.45-1.19 (m, 5H). MS (ES+) m/z: 306 [M+H]+.

reactant | 6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylic acid | 1 eq. | C1(CCCCC1)C=1C2=C(NC1)C=C(S2)C(=O)O | C13H15NO2S
reactant | tert-butyl N,N′-diisopropylimidocarbamate | 2 eq. | C(C)(C)NC(OC(C)(C)C)=NC(C)C | C11H24N2O
reactant | isourea | NC(O)=N | CH4N2O
solvent | CH2Cl2 | 0.19 M | C(Cl)Cl | CH2Cl2
product | tert-butyl 6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylate | 57% | C1(CCCCC1)C=1C2=C(NC1)C=C(S2)C(=O)OC(C)(C)C | C17H23NO2S
